US08664253B2
4-(4-Bromophenyl)-2-cyclopropyl-1-methyl-1H-imidazole
To a solution of 4-(4-bromophenyl)-2-cyclopropyl-1H-imidazole (2.43 g, 9.23 mmol) and cesium carbonate (6.02 g, 18.47 mmol) in THF (30 mL) was added iodomethane (1.27 mL, 20.31 mmol). The reaction was stirred at rt for 19 hours. Water was added and the mixture was extracted with ethyl acetate. The organics were dried (MgSO4) and concentrated to afford the title compound which was used without further purification. LCMS: [M+1]+=277.

reactant | 4-(4-bromophenyl)-2-cyclopropyl-1H-imidazole | 9.23 mmol, 2.43 g | BrC1=CC=C(C=C1)C=1N=C(NC1)C1CC1 | C12H11BrN2
reactant | cesium carbonate | 18.47 mmol, 6.02 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 20.31 mmol, 1.27 mL | IC | CH3I
reactant | Water | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-(4-Bromophenyl)-2-cyclopropyl-1-methyl-1H-imidazole | BrC1=CC=C(C=C1)C=1N=C(N(C1)C)C1CC1 | C13H13BrN2
